US04174958
(a) Pivalic acid 2-(2-bromo-4-nitrophenyl)hydrazide.
To a stirred and chilled (0°) solution containing 200 g (0.86 mol) of 2-bromo-4-nitrophenylhydrazine (m.p. 143°-145°) and 116.8 g (0.9 mol) of ethyldiisopropylamine in 1000 ml of tetrahydrofuran was added dropwise 108.5 g (0.9 mol) of pivaloyl chloride. The reaction mixture was stirred at ambient temperature for 1 hour and then concentrated to dryness under reduced pressure. The residue was treated with water, filtered and recrystallized from ethanol to give 165 g (52%) of product as a light yellow solid; m.p. 145° C.

reactant | 2-bromo-4-nitrophenylhydrazine | 0.86 mol, 200 g | BrC1=C(C=CC(=C1)[N+](=O)[O-])NN | C6H6BrN3O2
reactant | ethyldiisopropylamine | 0.9 mol, 116.8 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | pivaloyl chloride | 0.9 mol, 108.5 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | tetrahydrofuran | 1000 ml | O1CCCC1 | C4H8O
product | Pivalic acid 2-(2-bromo-4-nitrophenyl)hydrazide | 165 g, 52% | BrC1=C(C=CC(=C1)[N+](=O)[O-])NNC(C(C)(C)C)=O | C11H14BrN3O3
